US07572809B2
c) Preparation of 6-Fluoro-5-methoxy-indan-1-one
3-(4-Fluoro-3-methoxy-phenyl)-propionic acid (2 g, 10 mmol) and Methanesulfonic acid (15 ml) were sealed in process vial (20 ml) and it was heated at 90° C. for 10 minutes under microwave irradiation. The mixture was poured into ice and neutralized with NaOH. The solid was collected and dried to give 1.7 g of product (93.5% yield). LC-MS: m/e 181 (MH+)

reactant | 3-(4-Fluoro-3-methoxy-phenyl)-propionic acid | 10 mmol, 2 g | FC1=C(C=C(C=C1)CCC(=O)O)OC | C10H11FO3
reactant | Methanesulfonic acid | 15 ml | CS(=O)(=O)O | CH4O3S
reactant | NaOH | [OH-].[Na+]
product | 6-Fluoro-5-methoxy-indan-1-one | 1.7 g, 93.5% yield | FC1=C(C=C2CCC(C2=C1)=O)OC | C10H9FO2
